US05558978
Preparation of tert-butyl 4-vinylphenoxyacetate.
59.3 g (430 mmol) of potassium carbonate, 0.64 g of potassium iodide, 50.7 g (260 mmol) of tert-butyl bromoacetate and 31.2 g (260 mmol) of 4-hydroxystyrene are mixed with 145 ml of acetone in a 750 ml sulfonation flask. The resultant suspension is refluxed for 100 minutes, cooled, filtered and evaporated. The residue obtained is taken up in 750 ml of ether and washed twice with 100 ml of 1N NaOH solution in each case and then twice with 200 ml of water in each case. The organic phase is separated off, dried over magnesium sulfate and evaporated, leaving 60.02 g (256 mmol) of the desired product as a clear oil, which corresponds to a yield of 98.5% of theory. 1H-NMR (CDCl3, 300 MHz): δ ppm] 7.33/d/2H of the resultant product 6,84/d/2H 6,64/dd/1H 5,60/d/1H 5,12/d/1H 4,49/s/2H 1,47/s/9H

reactant | potassium carbonate | 430 mmol, 59.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 260 mmol, 50.7 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 4-hydroxystyrene | 260 mmol, 31.2 g | OC1=CC=C(C=C)C=C1 | C8H8O
reactant | acetone | 145 ml | CC(=O)C | C3H6O
solvent | ether | 750 ml | CCOCC | C4H10O
catalyst | potassium iodide | 0.64 g | [I-].[K+]
product | tert-butyl 4-vinylphenoxyacetate | 256 mmol, 60.02 g, yield of 98.5% | C(=C)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1 | C14H18O3
